US08912188B2
To a solution of 6-fluoropyridin-2-ylboronic acid (289.0 mg, 2.05 mmol) in dioxane (1 mL) was added methyl 2-chloro-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate (300.0 mg, 1.02 mmol), K3PO4 (434.0 mg, 2.05 mmol), and Pd(PPh3)4 (27.6 mg, 0.02 mmol) under nitrogen atmosphere. After stirring 1 h at 90° C., the reaction mixture was dissolved in water (50 mL), extracted with dichloromethane (3×20 mL), dried over anhydrous magnesium sulfate and concentrated under reduced pressure to afford a residue, which was purified by a silica gel column with 0.05%-0.2% ethyl acetate in petroleum ether to afford methyl 2-(6-fluoropyridin-2-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate as a light yellow solid (260.0 mg, 72%).

reactant | 6-fluoropyridin-2-ylboronic acid | 2.05 mmol, 289.0 mg | FC1=CC=CC(=N1)B(O)O | C5H5BFNO2
reactant | methyl 2-chloro-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate | 1.02 mmol, 300.0 mg | ClC1=NC2=CC=C(C=C2N=C1N(C)C(C)C)C(=O)OC | C14H16ClN3O2
reactant | K3PO4 | 2.05 mmol, 434.0 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | water | 50 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.02 mmol, 27.6 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 2-(6-fluoropyridin-2-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate | 260.0 mg, 72% | FC1=CC=CC(=N1)C1=NC2=CC=C(C=C2N=C1N(C)C(C)C)C(=O)OC | C19H19FN4O2
